US06436966B1
2-Phenyl-1-(3-pyridyl)ethanone
2-Cyano-2-phenyl-1-(3-pyridyl)ethanone (5.0 g) was dissolved in 48% hydrobromic acid (50 mL) and the solution was stirred at 140° C. for 5 h. After the mixture was cooled, the mixture was neutralized with an aqueous saturated solution of sodium hydrogen carbonate and the product was extracted with ethyl acetate. The extracts were washed with water, dried, and the solvent was evaporated. The crystalline residue was recrystallized from isopropyl ether to obtain the title compound (3.9 g, yield 88%).

reactant | 2-Cyano-2-phenyl-1-(3-pyridyl)ethanone | 5.0 g | C(#N)C(C(=O)C=1C=NC=CC1)C1=CC=CC=C1 | C14H10N2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | hydrobromic acid | 50 mL | Br | BrH
product | 2-Phenyl-1-(3-pyridyl)ethanone | 3.9 g, yield 88% | C1(=CC=CC=C1)CC(=O)C=1C=NC=CC1 | C13H11NO
